US06987106B1
4-Bromophenyl 1,4-diazabicyclo[3.2.2]nonane-4-carboxylate.
0.379 g (3.0 mmol) of 1,4-diazabicyclo[3.2.2]nonane and 0.84 ml (6.0 mmol) of triethylamine in 5 ml of dichloromethane are introduced into a 50-ml three-necked flask, the mixture is cooled to 0° C., 0.730 mg (3.1 mmol) of 4-bromophenyl chloroformate in solution in 3 ml of dichloromethane is added dropwise and the stirring is maintained at 0° C. for 10 min.

reactant | 1,4-diazabicyclo[3.2.2]nonane | 3.0 mmol, 0.379 g | N12CCNC(CC1)CC2 | C7H14N2
reactant | triethylamine | 6.0 mmol, 0.84 ml | C(C)N(CC)CC | C6H15N
reactant | 4-bromophenyl chloroformate | 3.1 mmol, 0.730 mg | ClC(=O)OC1=CC=C(C=C1)Br | C7H4BrClO2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | 4-Bromophenyl 1,4-diazabicyclo[3.2.2]nonane-4-carboxylate | N12CCN(C(CC1)CC2)C(=O)OC2=CC=C(C=C2)Br | C14H17BrN2O2
